US04061761
3-Allyl-4-(4-chloro-3-sulfamoylphenyl)-2-cyclopropylimino-1,3-thiazolidine-4-ol-hydrobromide
6.2 g of 2-bromo-4'-chloro-3'-sulfamoylacetophenone and 3.1 g of 1-allyl-3-cyclopropylthiourea were reacted and worked up according to the prescription given in Example 12.

reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 6.2 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 1-allyl-3-cyclopropylthiourea | 3.1 g | C(C=C)NC(=S)NC1CC1 | C7H12N2S
product | 3-Allyl-4-(4-chloro-3-sulfamoylphenyl)-2-cyclopropylimino-1,3-thiazolidine-4-ol-hydrobromide | Br.C(C=C)N1C(SCC1(O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=NC1CC1 | InChI=1S/C15H18ClN3O3S2.BrH/c1-2-7-19-14(18-11-4-5-11)23-9-15(19,20)10-3-6-12(16)13(8-10)24(17,21)22;/h2-3,6,8,11,20H,1,4-5,7,9H2,(H2,17,21,22);1H
